US07470699B2
Preparation of 4-[5-Methyl-6-(2-methyl-6-morpholin-4-yl-pyridin-3-ylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (Compound A91)
A solution of 4-[6-(6-chloro-2-methyl-pyridin-3-ylamino)-5-methyl-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (613 mg, 1.46 mmol) in 15 mL morpholine was reacted under microwave irradiation at 180° C. for 14 hours. Mixture was concentrated and purified by HPLC to give Compound A91 as a white solid (427 mg, 58%). 1H NMR (MeOH-d4, 400 MHz) δ 1.03-1.05 (d, 6H), 1.51-1.60 (m, 2H), 1.78-1.85 (m, 2H), 1.98 (s, 3H), 2.29 (s, 3H), 3.19-3.25 (m, 2H), 3.54-3.58 (m, 6H), 3.65-3.67 (m, 4H), 4.65-4.70 (m, 1H), 5.20-5.25 (m, 1H), 7.08-7.10 (d, 1H), 7.68-7.71 (d, 1H), 8.07 (s, 1H). Exact mass calculated for C24H34N6O4 470.26, found 471.3 (MH+).

reactant | 4-[6-(6-chloro-2-methyl-pyridin-3-ylamino)-5-methyl-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | 1.46 mmol, 613 mg | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C)NC=1C(=NC(=CC1)Cl)C | C20H26ClN5O3
reactant | morpholine | 15 mL | N1CCOCC1 | C4H9NO
product | 4-[5-Methyl-6-(2-methyl-6-morpholin-4-yl-pyridin-3-ylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | 427 mg, 58% | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C)NC=1C(=NC(=CC1)N1CCOCC1)C | C24H34N6O4
